Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
sigmoid diverticulitis with micro perforation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o diverticulitis treated with outpatient
antibiotics now p/w intermittent suprapubic LLQ pain 
intermittent
for the last 5 days that is worse with solid and acidic foods.
She describes the pain as cramping and sharp and states it
radiates to her mid abdomen. In addition, she has diarrhea and
nausea. She denies vomitting. She has  felt warm but has not
taken her temperature. She feels better when she doesn't eat. 
The
patient is visiting her daughter, a CVI ___ at ___, from
___. Her daughter encouraged her to present to the ED for
evaluation.

She was scheduled for her first colonoscopy upcoming on ___ but
will cancel it and schedule it for 6 weeks post discharge. 

Of note, she had an her first episode of diverticulitis in ___
at which time she was treated with po antibiotics. Between then
and ___, she has had infrequent episodes of twinges of 
pain
in the lower abdomen which she has self treated by putting
herself on bowel rest. In ___, she had worsening pain and
she was evaluated with a CT scan (non-contrast) that was
reportedly c/f diverticulitis. She was put on 10 days of po
antibiotics at home.
 
Past Medical History:
 HTN, self diagnosed diabetes, obesity, OSA, diverticulitis
per HPI
 
Social History:
___
Family History:
mother with HTN, autoimmune diseases, glaucoma; father with
macular degeneration, DM; other family with CAD, CHF

 
Physical Exam:
Gen: Alert, oriented, in NAD 
CV: RRR, S1S2
Pulm: CTAB
Abd: obese, non distended, TTP in suprapubic and LLQ with
+voluntary guarding and rebound, minimal TTP in right mid to
upper abdomen. Mild tenderness over RLQ and periumbilical area
___: WWP
 
Pertinent Results:
___ 05:00AM   GLUCOSE-112* UREA N-11 CREAT-0.9 SODIUM-142 
POTASSIUM-4.7 CHLORIDE-105 TOTAL CO2-25 ANION GAP-12
___ 05:00AM   CALCIUM-9.1 PHOSPHATE-2.8 MAGNESIUM-2.1
___ 05:00AM   WBC-5.3 RBC-4.44 HGB-12.3 HCT-37.1 MCV-84 
MCH-27.7 MCHC-33.2 RDW-13.3 RDWSD-41.0
___ 05:00AM   PLT COUNT-186
___ 05:00AM   ___ PTT-31.5 ___
___ 02:32PM   WBC-5.8 RBC-4.44 HGB-11.9 HCT-36.9 MCV-83 
MCH-26.8 MCHC-32.2 RDW-13.5 RDWSD-40.6
___ 02:32PM   NEUTS-73.2* LYMPHS-18.5* MONOS-6.1 EOS-1.2 
BASOS-0.5 IM ___ AbsNeut-4.23 AbsLymp-1.07* AbsMono-0.35 
AbsEos-0.07 AbsBaso-0.03
___ 02:32PM   PLT COUNT-193
___ 01:08PM URINE  HOURS-RANDOM
___ 01:08PM URINE  UHOLD-HOLD
___ 01:08PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:08PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:08PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:08PM URINE  HYALINE-18*
___ 01:08PM URINE  MUCOUS-RARE*
___ 12:51PM   GLUCOSE-114* UREA N-14 CREAT-1.0 SODIUM-142 
POTASSIUM-5.0 CHLORIDE-100 TOTAL CO2-25 ANION GAP-17
___ 12:51PM   estGFR-Using this
___ 12:51PM   ALT(SGPT)-27 AST(SGOT)-19 ALK PHOS-75 TOT 
BILI-0.6
___ 12:51PM   LIPASE-14
___ 12:51PM   ALBUMIN-4.5
___ 12:51PM   VoidSpec-VOIDED
 
Brief Hospital Course:
The patient presented to Emergency Department with findings 
showing sigmoid diverticulitis with micro-perf. She was made NPO 
and started on IV antibiotics. She was gradually advancing her 
diet and transitioned to PO antibiotics which she tolerated 
well. She remained afebrile and HDS. 
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge ___
 
Medications on Admission:
-
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 2 tablet(s) by mouth daily Disp 
#*26 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth Three 
times daily Disp #*39 Tablet Refills:*0 
3.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,
You came here with abdominal pain and were found to have 
diverticulitis with imaging. You were managed non-operatively 
here with antibiotics and supportive care. You are now safe to 
be discharged home.

As discussed you should go forward with your outpatient 
colonoscopy. After this is complete, please contact the Acute 
Care Surgery clinic at ___ to arrange an appointment to 
discuss surgery to treat diverticulitis.  The phone number to 
the clinic is: ___.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

 *You experience new chest pain, pressure, squeezing or 
tightness.

 *New or worsening cough, shortness of breath, or wheeze.

 *If you are vomiting and cannot keep down fluids or your 
medications.

 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.

 *You see blood or dark/black material when you vomit or have a 
bowel movement.

 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

 *Any change in your symptoms, or any new symptoms that concern 
you.
 
Followup Instructions:
___